US04353827
3.3 g (0.015 mol) of 6-chloro-5-fluoroisatoic acid anhydride and 2 g (0.017 mol) of L-proline in 7.5 ml of dimethylformamide are heated to 120° for 2 hours, cooled, treated with 12 ml of distilled water and the precipitated brown crystals are filtered off. By recrystallization of the crude product from acetone/hexane there is obtained (S)-6-chloro-7-fluoro-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione of melting point 217°-219°.

reactant | 6-chloro-5-fluoroisatoic acid anhydride | 0.015 mol, 3.3 g | ClC=1C(=CC=C2C1C(=O)OC(N2)=O)F | C8H3ClFNO3
reactant | L-proline | 0.017 mol, 2 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | water | 12 ml | O | H2O
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
product | (S)-6-chloro-7-fluoro-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | ClC1=C(C=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O)F | C12H10ClFN2O2
